US07977331B1
To a suspension of 2-[2-(2-bromophenylsulfanyl)ethoxy]tetrahydropyran (1.00 g, 3.2 mmol), sodium hydrogen carbonate (1.10 g, 13.2 mmol) and tetrakis(triphenylphosphine)palladium (363 mg, 0.310 mmol) in 1,2-dimethoxyethane (10 ml) and water (5 ml) was added methyl 3-cyclohexyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-6-carboxylate (1.45 g, 3.78 mmol) with heating under reflux and the mixture was heated under reflux for 2.5 hr. The reaction mixture was allowed to cool to room temperature, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was successively washed with water and saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (hexane:ethyl acetate=5:1-3:1) to give methyl 3-cyclohexyl-2-{2-[2-(tetrahydropyran-2-yloxy)ethylsulfanyl]phenyl}-1H-indole-6-carboxylate (1.38 g, yield 74.5%).

reactant | 2-[2-(2-bromophenylsulfanyl)ethoxy]tetrahydropyran | 3.2 mmol, 1.00 g | BrC1=C(C=CC=C1)SCCOC1OCCCC1 | C13H17BrO2S
reactant | sodium hydrogen carbonate | 13.2 mmol, 1.10 g | C(O)([O-])=O.[Na+]
reactant | methyl 3-cyclohexyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-6-carboxylate | 3.78 mmol, 1.45 g | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)B1OC(C(O1)(C)C)(C)C | C22H30BNO4
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | water | 5 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.310 mmol, 363 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-cyclohexyl-2-{2-[2-(tetrahydropyran-2-yloxy)ethylsulfanyl]phenyl}-1H-indole-6-carboxylate | 1.38 g, yield 74.5% | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=CC=C1)SCCOC1OCCCC1 | C29H35NO4S
